US08283353B2
4′-({4-[4-(1-hydroxy-1-methylethyl)phenyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
To a suspension (26 mL) of 4′-[(5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (0.86 g), (4-acetylphenyl)boronic acid (0.83 g), triethylamine (0.86 mL), pyridine (1.7 mL) and molecular sieves 4A (1.7 g) in dichloromethane was added copper(II) acetate (0.84 g), and the mixture was stirred for 16 hr. The reaction mixture was diluted with ethyl acetate, insoluble material was filtered off through celite, and the filtrate was concentrated. Methyllithium (2.2M diethyl ether solution, 0.94 mL) was added to the obtained residue at −78° C. The reaction mixture was stirred at the same temperature for 1 hr, and extracted with saturated aqueous ammonium chloride solution and diethyl ether. The diethyl ether layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.47 g, 41%).

reactant | 4′-[(5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 26 mL, 0.86 g | O=C1NC=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C22H19N5O
reactant | (4-acetylphenyl)boronic acid | 0.83 g | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
reactant | triethylamine | 0.86 mL | C(C)N(CC)CC | C6H15N
reactant | pyridine | 1.7 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper(II) acetate | 0.84 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4′-({4-[4-(1-hydroxy-1-methylethyl)phenyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.47 g, 41% | OC(C)(C)C1=CC=C(C=C1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C31H29N5O2
